US06608070B1
2-Acetyl-4-(tert-butyldimethylsilyloxymethyl)pyridine:
The title compound was prepared from 4-(tert-butyldimethylsilyloxymethyl)pyridinecarbonitrile (A. Hadri et al., J. Heterocycl. Chem., 1993, 30, 631) according to the procedure for preparing 2-acetyl-4-chloropyridine described in Example 33.

reactant | 4-(tert-butyldimethylsilyloxymethyl)pyridinecarbonitrile | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NC=C1)C#N | C13H20N2OSi
reactant | 2-acetyl-4-chloropyridine | C(C)(=O)C1=NC=CC(=C1)Cl | C7H6ClNO
product | 2-Acetyl-4-(tert-butyldimethylsilyloxymethyl)pyridine | C(C)(=O)C1=NC=CC(=C1)CO[Si](C)(C)C(C)(C)C | C14H23NO2Si
